US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (78 mg, 116 μmol) in 4 M HCl in dioxane (582 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (66.8 mg, 95%) as an off-white solid. MS m/z 570 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 116 μmol, 78 mg | C1(CC1)C=1C=NC2=CC=CC=C2C1CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C1CCOCC1)C=CC=C2 | C38H47N5O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 582 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 66.8 mg, 95% | Cl.C1(CC1)C=1C=NC2=CC=CC=C2C1CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(=O)C1CCOCC1)C=CC=C2 | InChI=1S/C33H39N5O4.ClH/c1-20(34-3)31(39)36-30-21(2)38(32(40)23-14-16-42-17-15-23)29-11-7-6-10-28(29)37(33(30)41)19-26-24-8-4-5-9-27(24)35-18-25(26)22-12-13-22;/h4-11,18,20-23,30,34H,12-17,19H2,1-3H3,(H,36,39);1H/t20-,21-,30-;/m0./s1
